US07842715B2
Preparation of 1′-(4-phenoxybenzoyl)-1,3′-bipyrrolidine Hydrochloride
A stirred mixture of the HCl salt of 3-(pyrrolidino)pyrrolidine (0.44 g, 2.1 mmol) and 4-phenoxy benzoic acid (0.34 g, 1.6 mmol) in CH2Cl2 is treated with 0.85 mL of triethylamine at room temperature. The reaction mixture is treated with solid benzotriazol-1-yl-oxytripyrrolidinophosphonium hexafluorophosphate (1.2 g, 2.4 mmol), stirred overnight under nitrogen, diluted with CH2Cl2, washed sequentially with water and brine, dried over MgSO4 and concentrated in vacuo. The resultant residue is chromatographed and treated with HCl in ether to afford the title compound as a white solid, identified by NMR and MS analyses.

reactant | HCl | Cl | ClH
reactant | 3-(pyrrolidino)pyrrolidine | 2.1 mmol, 0.44 g | N1(CCCC1)C1CNCC1 | C8H16N2
reactant | 4-phenoxy benzoic acid | 1.6 mmol, 0.34 g | O(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
reactant | benzotriazol-1-yl-oxytripyrrolidinophosphonium hexafluorophosphate | 2.4 mmol, 1.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.85 mL | C(C)N(CC)CC | C6H15N
product | 1′-(4-phenoxybenzoyl)-1,3′-bipyrrolidine Hydrochloride | Cl.O(C1=CC=CC=C1)C1=CC=C(C(=O)N2CC(CC2)N2CCCC2)C=C1 | InChI=1S/C21H24N2O2.ClH/c24-21(23-15-12-18(16-23)22-13-4-5-14-22)17-8-10-20(11-9-17)25-19-6-2-1-3-7-19;/h1-3,6-11,18H,4-5,12-16H2;1H
